US06043260
4-Chloro-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine.
Pyridine (250 mL) was added to a 2 liter flask equipped with a mechanical stirrer, a reflux condenser and a nitrogen inlet. The flask was cooled in an ice bath and 2,4,6-trimethylphenol (42.5 g, 0.312 mol) and potassium t-butoxide (35.1 g, 0.313 mol) were added. The flask was warmed to room temperature and 2,4-dichloro-3,6-dimethylpyridine (50.0 g, 0.284 mol) and copper (I) iodide (13.5 g, 0.071 mol) were added. The reaction mixture was heated under reflux for two hours and then cooled to 0° C. The reaction mixture was diluted with hexanes (500 mL) and mixed with saturated ammonium chloride (NH4Cl, 1000 mL). After warming to room temperature, the mixture was stirred overnight. The layers were separated and the organic layer was washed with 3×125 mL of 1N hydrochloric acid (HCl) and 1×250 mL of water. After drying over sodium sulfate (Na2SO4), the solids were removed by filtration and washed with hexanes. The filtrate was concentrated under vacuum to afford a brown oil. The residue was mixed with methanol (250 mL) and was stirred overnight. The resulting slurry was filtered under vacuum. The off-white solids were washed with methanol then dried to afford 31.6 g (40.4%) of the title compound of Preparation F. 1HNMR (CDCl3): δ 6.88 (s, 2H), 6.78 (s, 1H), 2.40 (s, 3H), 2.30 (s, 3H), 2.20 (s, 3H), 2.04 (s, 6H).

reactant | 2,4,6-trimethylphenol | 0.312 mol, 42.5 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | potassium t-butoxide | 0.313 mol, 35.1 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichloro-3,6-dimethylpyridine | 0.284 mol, 50.0 g | ClC1=NC(=CC(=C1C)Cl)C | C7H7Cl2N
reactant | ammonium chloride | 1000 mL | [Cl-].[NH4+]
catalyst | copper (I) iodide | 0.071 mol, 13.5 g | [Cu]I
solvent | methanol | 250 mL | CO | CH4O
solvent | Pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine | 31.6 g, 40.4% | ClC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C16H18ClNO
